US04906634
N-(4-Aminophenyl)-N'-ethyl-N'-(5-methylhexyl)-N-(2-propenyl)-1,2-ethanediamine
In a manner similar to Preparation 4 react N-ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-N'-(2-propenyl)1,2-ethanediamine with tin(II) chloride dihydrate in ethanol to obtain the title compound.

reactant | N-ethyl-N-(5-methylhexyl)-N'-(4-nitrophenyl)-N'-(2-propenyl)1,2-ethanediamine | C(C)N(CCN(CC=C)C1=CC=C(C=C1)[N+](=O)[O-])CCCCC(C)C | C20H33N3O2
reactant | tin(II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | N-(4-Aminophenyl)-N'-ethyl-N'-(5-methylhexyl)-N-(2-propenyl)-1,2-ethanediamine | NC1=CC=C(C=C1)N(CCN(CCCCC(C)C)CC)CC=C | C20H35N3
